US09085581B2
Preparation of (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid N-methylglucamine salt
(R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid (15 mg, 0.0311 mmol) was dissolved in acetone (0.5 mL) and warmed to 50° C. Aqueous N-methylglucamine (14 uL, 2.27M) was added and the mixture was allowed to slowly cool to 30° C. over 24 h. The reaction mixture was evaporated to dryness, and EtOAc (0.5 mL) was added to provide a solid which was collected by filtration.

reactant | (R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | 0.0311 mmol, 15 mg | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | C24H23ClF3NO4
reactant | N-methylglucamine | 2.27M, 14 uL | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | acetone | 0.5 mL | CC(=O)C | C3H6O
product | (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid N-methylglucamine salt | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | InChI=1S/C24H23ClF3NO4.C7H17NO5/c1-13(2)33-20-6-3-14(9-18(20)24(26,27)28)12-32-16-4-5-19-17(11-16)22(25)23-15(10-21(30)31)7-8-29(19)23;1-8-2-4(10)6(12)7(13)5(11)3-9/h3-6,9,11,13,15H,7-8,10,12H2,1-2H3,(H,30,31);4-13H,2-3H2,1H3/t15-;4-,5+,6+,7+/m10/s1
